US06589984B1
A solution of methyl 2-methyl-3-oxopentanoate (3.24 g) in THF (30 ml) was slowly added to a suspension of NaH (900 mg) in THF (50 ml) at 0° C., and after stirring for 10 minutes, the mixture was cooled to −78° C. and 1.58 M n-BuLi (14.2 ml) was slowly added dropwise. After stirring the reaction solution at −78° C. for 30 minutes, a solution of methyl 6-(benzyloxy)benzofuran-2-carboxylate (4.26 g) in THF (15 ml) was slowly added and the mixture was stirred at −78° C. for 4 hours. A saturated ammonium chloride aqueous solution was added to the reaction solution, and after bringing it to room temperature, extraction was performed with AcOEt and the organic layer was dried with MgSO4 and then filtered and concentrated. The residue was dissolved in MeOH (30 ml) and THF (10 ml), a 4 N lithium hydroxide aqueous solution (5 ml) and water (50 ml) were added, and after stirring at room temperature for 4 hours, a saturated KHSO4 aqueous solution (30 ml) was slowly added. The deposited yellow precipitate was filtered off and rinsed with AcOEt to obtain 6-(6-(benzyloxy)benzofuran-2-yl)-3,5-dimethyl-4-hydroxy-2H-pyran-2-one.

reactant | methyl 2-methyl-3-oxopentanoate | 3.24 g | CC(C(=O)OC)C(CC)=O | C7H12O3
reactant | NaH | 900 mg | [H-].[Na+]
reactant | n-BuLi | 1.58 M, 14.2 ml | [Li]CCCC
reactant | methyl 6-(benzyloxy)benzofuran-2-carboxylate | 4.26 g | C(C1=CC=CC=C1)OC1=CC2=C(C=C(O2)C(=O)OC)C=C1 | C17H14O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 6-(6-(benzyloxy)benzofuran-2-yl)-3,5-dimethyl-4-hydroxy-2H-pyran-2-one | C(C1=CC=CC=C1)OC1=CC2=C(C=C(O2)C2=C(C(=C(C(O2)=O)C)O)C)C=C1 | C22H18O5
